*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_0 1 2 3 4 REF
C_C1 1 REF 0.6465960779963pf
C_C2 1 2 18.332142085193pf
C_C3 1 3 0.0303750084224pf
C_C4 1 4 0.2508238139809pf
C_C5 2 REF 0.883701236591pf
C_C6 2 3 0.1291284561353pf
C_C7 3 REF 0.648425532366pf
C_C8 3 4 5.1622864473594pf
C_C9 4 REF 0.6533286185987pf
L_L1 3 5 1.2971185407855nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_1 1 2 3 4 REF
C_C1 1 REF 0.5565326010521pf
C_C2 1 2 18.754879969901pf
C_C3 1 3 0.0278915355091pf
C_C4 1 4 0.2556117538376pf
C_C5 2 REF 0.8013512289416pf
C_C6 2 3 0.1298001882951pf
C_C7 3 REF 0.6502606557285pf
C_C8 3 4 3.8196978832481pf
C_C9 4 REF 0.652422195948pf
L_L1 3 5 1.2981984435769nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_2 1 2 3 4 REF
C_C1 1 REF 0.4855836787557pf
C_C2 1 2 19.227124261765pf
C_C3 1 3 0.0254013931157pf
C_C4 1 4 0.2608985805705pf
C_C5 2 REF 0.7385106596246pf
C_C6 2 3 0.1305929312865pf
C_C7 3 REF 0.6519821103554pf
C_C8 3 4 2.8798574723482pf
C_C9 4 REF 0.6519487558029pf
L_L1 3 5 1.2990995105134nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_3 1 2 3 4 REF
C_C1 1 REF 0.4200068037084pf
C_C2 1 2 19.88204920324pf
C_C3 1 3 0.0222765061022pf
C_C4 1 4 0.2682495616033pf
C_C5 2 REF 0.6837517046487pf
C_C6 2 3 0.131809043541pf
C_C7 3 REF 0.653921922497pf
C_C8 3 4 2.0687585983469pf
C_C9 4 REF 0.6517678161524pf
L_L1 3 5 1.3000132898811nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_4 1 2 3 4 REF
C_C1 1 REF 0.3666360400462pf
C_C2 1 2 20.738892886978pf
C_C3 1 3 0.018556464233pf
C_C4 1 4 0.2779661484524pf
C_C5 2 REF 0.6442860913141pf
C_C6 2 3 0.1336041932913pf
C_C7 3 REF 0.6558847243302pf
C_C8 3 4 1.4164316454903pf
C_C9 4 REF 0.6518836991415pf
L_L1 3 5 1.3009289826541nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_5 1 2 3 4 REF
C_C1 1 REF 0.3330699013862pf
C_C2 1 2 21.680607345026pf
C_C3 1 3 0.0148076303217pf
C_C4 1 4 0.2887788803813pf
C_C5 2 REF 0.6259537256548pf
C_C6 2 3 0.13582880046pf
C_C7 3 REF 0.6574479755378pf
C_C8 3 4 0.9829266600946pf
C_C9 4 REF 0.6521862011607pf
L_L1 3 5 1.3016708331773nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_6 1 2 3 4 REF
C_C1 1 REF 0.3124944168073pf
C_C2 1 2 22.712448267432pf
C_C3 1 3 0.0109682063707pf
C_C4 1 4 0.3007412849755pf
C_C5 2 REF 0.6221111958945pf
C_C6 2 3 0.1385185105371pf
C_C7 3 REF 0.658638123345pf
C_C8 3 4 0.684619022734pf
C_C9 4 REF 0.6525555426363pf
L_L1 3 5 1.3022821339373nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_7 1 2 3 4 REF
C_C1 1 REF 0.2984900562053pf
C_C2 1 2 24.052604119329pf
C_C3 1 4 0.3163687756941pf
C_C4 2 REF 0.6298609272343pf
C_C5 2 3 0.1423236383686pf
C_C6 3 REF 0.6596110671153pf
C_C7 3 4 0.4452885819841pf
C_C8 4 REF 0.6529887207707pf
L_L1 3 5 1.3028607471103nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_8 1 2 3 4 REF
C_C1 1 REF 0.2889615469452pf
C_C2 1 2 25.767920718813pf
C_C3 1 4 0.3363873535755pf
C_C4 2 REF 0.6480481902898pf
C_C5 2 3 0.1475473237136pf
C_C6 3 REF 0.6602894744442pf
C_C7 3 4 0.2597891790866pf
C_C8 4 REF 0.6534322236435pf
L_L1 3 5 1.3034090272765nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_9 1 2 3 4 REF
C_C1 1 REF 0.28064018006pf
C_C2 1 2 28.012925586508pf
C_C3 1 4 0.3624621259163pf
C_C4 2 REF 0.6755387037012pf
C_C5 2 3 0.15479759109pf
C_C6 3 REF 0.6606238440662pf
C_C7 3 4 0.1219028649011pf
C_C8 4 REF 0.6538489921048pf
L_L1 1 5 78.205801999427nh
R_RL1 5 2 5.1211331964023
L_L2 3 6 1.3038681598503nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_10 1 2 3 4 REF
C_C1 1 REF 0.2692491491572pf
C_C2 1 2 30.966606878399pf
C_C3 1 4 0.396445939749pf
C_C4 2 REF 0.7103567119295pf
C_C5 2 3 0.1647521785557pf
C_C6 3 REF 0.6606336494631pf
C_C7 3 4 0.0210685775864pf
C_C8 4 REF 0.6542247956213pf
L_L1 1 5 48.899081649946nh
R_RL1 5 2 2.4454112085264
L_L2 3 6 1.3042545657089nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_11 1 2 3 4 REF
C_C1 1 REF 0.2495122789604pf
C_C2 1 2 35.020801857707pf
C_C3 1 4 0.4424988328054pf
C_C4 2 REF 0.7525302244142pf
C_C5 2 3 0.1788434784078pf
C_C6 3 REF 0.6603480516294pf
C_C7 4 REF 0.6545754211539pf
L_L1 1 5 30.191730528172nh
R_RL1 5 2 0.7947983814111
L_L2 3 6 1.3042095598713nh
R_RL2 6 4 -1.016786427e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_12 1 2 3 4 REF
C_C1 1 REF 0.2155582041549pf
C_C2 1 2 40.750802186954pf
C_C3 1 4 0.5067561066288pf
C_C4 2 REF 0.8040880794803pf
C_C5 2 3 0.1991338781277pf
C_C6 3 REF 0.6598259537326pf
C_C7 4 REF 0.6549507249431pf
L_L1 1 5 18.569509179964nh
R_RL1 5 2 -1.003326969443
L_L2 3 6 1.3039139312749nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_13 1 2 3 4 REF
C_C1 1 REF 0.1571648049021pf
C_C2 1 2 49.467595416818pf
C_C3 1 4 0.6034184686412pf
C_C4 2 REF 0.8733407382354pf
C_C5 2 3 0.23030317159pf
C_C6 3 REF 0.6590953401861pf
C_C7 4 REF 0.6554588329332pf
R_R1 1 2 951.93967734019
L_L1 1 5 10.535353434783nh
R_RL1 5 2 -0.090790890073
L_L2 3 6 1.3033815567219nh
R_RL2 6 4 -1.139529013e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_14 1 2 3 4 REF
C_C1 1 REF 0.0565152028909pf
C_C2 1 2 63.678491880344pf
C_C3 1 4 0.7598300987468pf
C_C4 2 REF 0.9783719068113pf
C_C5 2 3 0.281269051717pf
C_C6 3 REF 0.6581531009775pf
C_C7 4 REF 0.6563085479809pf
R_R1 1 2 375.82383797546
L_L1 1 5 5.8491660106637nh
R_RL1 5 2 0.1575399311587
L_L2 3 6 1.3025217820858nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_15 1 2 3 4 REF
C_C1 1 2 90.331553296567pf
C_C2 1 4 1.0520043202173pf
C_C3 2 REF 1.1698747328559pf
C_C4 2 3 0.3767964996707pf
C_C5 3 REF 0.656858284726pf
C_C6 4 REF 0.6580483397193pf
R_R1 1 2 160.54500480255
L_L1 1 5 2.8584130816454nh
R_RL1 5 2 -0.283883691778
L_L2 3 6 1.3008918588236nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_16 1 2 3 4 REF
C_C1 1 2 157.48097626231pf
C_C2 1 4 1.7870886711645pf
C_C3 2 REF 1.650764824678pf
C_C4 2 3 0.6170637504302pf
C_C5 3 REF 0.6544758009601pf
C_C6 4 REF 0.6628566333044pf
R_R1 1 2 57.045552400832
L_L1 1 5 1.1192323555769nh
R_RL1 5 2 -0.157556807253
L_L2 1 6 50.329210238924nh
R_RL2 6 3 -0.178942647689
L_L3 1 7 49.604206071794nh
R_RL3 7 4 -0.179937253851
L_L4 2 8 50.434990186656nh
R_RL4 8 3 0.0136333082261
L_L5 2 9 49.713196184982nh
R_RL5 9 4 0.0133420445781
L_L6 3 10 1.2969105902871nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0675154516322
Kn_K2 L_L1 L_L3 0.0677916413029
Kn_K3 L_L1 L_L4 -0.081523788995
Kn_K4 L_L1 L_L5 -0.082328664605
Kn_K5 L_L2 L_L3 0.9870482291154
Kn_K6 L_L2 L_L4 0.9888931044474
Kn_K7 L_L2 L_L5 0.9758352238027
Kn_K8 L_L2 L_L6 -0.125131822607
Kn_K9 L_L3 L_L4 0.9759137793721
Kn_K10 L_L3 L_L5 0.9887313481667
Kn_K11 L_L3 L_L6 0.0356517381983
Kn_K12 L_L4 L_L5 0.9870757210645
Kn_K13 L_L4 L_L6 -0.124802069391
Kn_K14 L_L5 L_L6 0.0358125328436
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_17 1 2 3 4 REF
C_C1 1 2 456.94909281379pf
C_C2 1 4 5.0646196331486pf
C_C3 2 REF 3.8009020224556pf
C_C4 2 3 1.6879731758258pf
C_C5 3 REF 0.6460839564533pf
C_C6 4 REF 0.6857985919615pf
R_R1 1 REF -898.282941361
R_R2 1 2 9.9442452542355
R_R3 1 4 766.85609234215
R_R4 2 REF 877.19196572506
R_R5 2 4 -767.5474973544
L_L1 1 5 30.707806136386nh
R_RL1 5 REF -0.825526256878
L_L2 1 6 0.2613969405733nh
R_RL2 6 2 -0.063319775836
L_L3 1 7 13.998029202553nh
R_RL3 7 3 -0.053001693122
L_L4 1 8 13.322380677728nh
R_RL4 8 4 -0.054692859211
L_L5 2 9 30.529528352906nh
R_RL5 9 REF -0.938330927033
L_L6 2 10 14.052337366585nh
R_RL6 10 3 0.0016858363755
L_L7 2 11 13.381025785926nh
R_RL7 11 4 0.0016880138981
L_L8 3 12 44.400830346798nh
R_RL8 12 REF -0.909068808443
L_L9 3 13 1.2794242422729nh
R_RL9 13 4 1.0e-5
L_L10 4 14 43.716721267933nh
R_RL10 14 REF -0.911721180621
Kn_K1 L_L1 L_L2 0.0775937710095
Kn_K2 L_L1 L_L5 0.995735631827
Kn_K3 L_L1 L_L8 0.8274974473626
Kn_K4 L_L1 L_L10 0.8338314790101
Kn_K5 L_L2 L_L3 0.0541306034902
Kn_K6 L_L2 L_L4 0.0543242354051
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082362036091
Kn_K9 L_L2 L_L7 -0.08556222947
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9534612670873
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.99068301454
Kn_K15 L_L3 L_L7 0.9438039145672
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.230989476903
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9442078889046
Kn_K21 L_L4 L_L7 0.9902134892833
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0731218953084
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8267514006077
Kn_K26 L_L5 L_L10 0.8330199242402
Kn_K27 L_L6 L_L7 0.9536480424873
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.230031277919
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.073485568592
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1302583121126
Kn_K35 L_L8 L_L10 0.9855101840107
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_18 1 2 3 4 REF
C_C1 1 REF 23.483870483641pf
C_C2 1 3 11.401899282332pf
C_C3 2 4 34.940976148759pf
C_C4 3 REF 0.7388857609858pf
C_C5 4 REF 0.3972667777299pf
R_R1 1 REF -160.4982856844
R_R2 1 2 0.8224270701543
R_R3 1 3 -181.4160601505
R_R4 1 4 82.938971572933
R_R5 2 REF 159.1640199129
R_R6 2 3 181.44672991342
R_R7 2 4 -82.96123761656
L_L1 1 5 3.1558393118293nh
R_RL1 5 REF -0.011241994332
L_L2 1 6 0.1156144581946nh
R_RL2 6 2 -0.251223114784
L_L3 1 7 2.2134613492521nh
R_RL3 7 3 -0.099802661113
L_L4 1 8 1.6567702069358nh
R_RL4 8 4 -0.150130898357
L_L5 2 9 3.2365716154014nh
R_RL5 9 REF -0.255928554602
L_L6 2 10 2.1893582712181nh
R_RL6 10 3 -0.034014410661
L_L7 2 11 1.6129738788762nh
R_RL7 11 4 -0.012758189571
L_L8 3 12 5.360554219943nh
R_RL8 12 REF -0.106127813962
L_L9 3 13 1.1244414950936nh
R_RL9 13 4 -5.079956994e-3
L_L10 4 14 4.8110576718536nh
R_RL10 14 REF -0.155736590131
Kn_K1 L_L1 L_L2 0.0288741888182
Kn_K2 L_L1 L_L5 0.9819921122472
Kn_K3 L_L1 L_L8 0.7662144731239
Kn_K4 L_L1 L_L10 0.8097116104818
Kn_K5 L_L2 L_L3 0.1380952935189
Kn_K6 L_L2 L_L4 0.1821170034949
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.090945374872
Kn_K9 L_L2 L_L7 -0.083154231962
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0273094461789
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7169192197788
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9737554059757
Kn_K16 L_L3 L_L7 0.6896152603743
Kn_K17 L_L3 L_L8 0.9148961934121
Kn_K18 L_L3 L_L9 -0.53280412749
Kn_K19 L_L3 L_L10 0.9668338254837
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.679004511145
Kn_K22 L_L4 L_L7 0.964727674371
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2079830041768
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0122796250564
Kn_K27 L_L5 L_L8 0.7691823266568
Kn_K28 L_L5 L_L10 0.8153280929614
Kn_K29 L_L6 L_L7 0.7125096632787
Kn_K30 L_L6 L_L8 0.9352193617345
Kn_K31 L_L6 L_L9 -0.542004648971
Kn_K32 L_L6 L_L10 0.9913262334273
Kn_K33 L_L7 L_L8 1.0
Kn_K34 L_L7 L_L9 0.2034762455994
Kn_K35 L_L7 L_L10 1.0
Kn_K36 L_L8 L_L9 0.3409071464094
Kn_K37 L_L8 L_L10 0.8907537232082
Kn_K38 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_19 1 2 3 4 REF
C_C1 1 2 1715.2249168402pf
C_C2 1 4 18.881263140844pf
C_C3 2 REF 12.934693656935pf
C_C4 2 3 6.1442848029808pf
C_C5 3 REF 0.6122142125387pf
C_C6 4 REF 0.7843959478737pf
R_R1 1 REF 157.64554814388
R_R2 1 2 -0.932953477644
R_R3 1 3 222.97751842541
R_R4 1 4 -90.67265069791
R_R5 2 REF -159.187642933
R_R6 2 3 -223.0613383969
R_R7 2 4 90.697445660835
L_L1 1 5 4.8827413713521nh
R_RL1 5 REF -0.030598563498
L_L2 1 6 0.0318602055916nh
R_RL2 6 2 0.0189544376429
L_L3 1 7 3.0300475785844nh
R_RL3 7 3 0.0062379705266
L_L4 1 8 2.4134868779182nh
R_RL4 8 4 0.0087795190362
L_L5 2 9 4.8447386667323nh
R_RL5 9 REF -0.019178598578
L_L6 2 10 3.0431042182726nh
R_RL6 10 3 0.0031247249838
L_L7 2 11 2.4332240264588nh
R_RL7 11 4 0.0017010087079
L_L8 3 12 7.8664685513344nh
R_RL8 12 REF -0.029328290137
L_L9 3 13 1.1811445203565nh
R_RL9 13 4 2.3052697932e-4
L_L10 4 14 7.2432190334824nh
R_RL10 14 REF -0.027675539028
Kn_K1 L_L1 L_L2 0.0885646742147
Kn_K2 L_L1 L_L5 0.9967323279542
Kn_K3 L_L1 L_L8 0.7841101483779
Kn_K4 L_L1 L_L10 0.8165864752065
Kn_K5 L_L2 L_L3 0.0302594625409
Kn_K6 L_L2 L_L4 0.0218592569621
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.072126781049
Kn_K9 L_L2 L_L7 -0.092657824922
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.017218834089
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7880903090934
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9947562246038
Kn_K16 L_L3 L_L7 0.7814249580709
Kn_K17 L_L3 L_L8 0.9953692304405
Kn_K18 L_L3 L_L9 -0.475129767455
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7841611482481
Kn_K22 L_L4 L_L7 0.9934346648
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1671954448929
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7830440425488
Kn_K27 L_L5 L_L10 0.8149093779338
Kn_K28 L_L6 L_L7 0.7892276436216
Kn_K29 L_L6 L_L8 0.9880136723004
Kn_K30 L_L6 L_L9 -0.472347531167
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1684862804387
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.295978362219
Kn_K36 L_L8 L_L10 0.9226138738548
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_20 1 2 3 4 REF
C_C1 1 2 141.1202147788pf
C_C2 1 4 1.6037510553338pf
C_C3 2 REF 1.5323343021081pf
C_C4 2 3 0.5578084721285pf
C_C5 3 REF 0.6519281558523pf
C_C6 4 REF 0.6582075646622pf
R_R1 1 2 -55.75983016245
L_L1 1 5 95.98489485629nh
R_RL1 5 REF -10.15169025876
L_L2 1 6 0.2779486987537nh
R_RL2 6 2 0.0292032636234
L_L3 1 7 26.873468503738nh
R_RL3 7 3 -0.013795000273
L_L4 1 8 26.138092757898nh
R_RL4 8 4 -0.013495588119
L_L5 2 9 94.885650781118nh
R_RL5 9 REF -10.1710022728
L_L6 2 10 27.097121410086nh
R_RL6 10 3 0.014591999366
L_L7 2 11 26.37026322054nh
R_RL7 11 4 0.0138094874597
L_L8 3 12 1.2881694375255nh
R_RL8 12 4 4.3717976755e-5
Kn_K1 L_L1 L_L2 0.1333155996044
Kn_K2 L_L1 L_L5 0.9985603441538
Kn_K3 L_L2 L_L5 1.0
Kn_K4 L_L2 L_L6 -0.091387126233
Kn_K5 L_L2 L_L7 -0.094211102558
Kn_K6 L_L3 L_L4 0.9757941085042
Kn_K7 L_L3 L_L5 1.0
Kn_K8 L_L3 L_L6 0.9948585391876
Kn_K9 L_L3 L_L7 0.970469237969
Kn_K10 L_L3 L_L8 -0.171962817894
Kn_K11 L_L4 L_L5 1.0
Kn_K12 L_L4 L_L6 0.9708987200366
Kn_K13 L_L4 L_L7 0.9947163052104
Kn_K14 L_L4 L_L8 0.0476331869834
Kn_K15 L_L6 L_L7 0.9759975693272
Kn_K16 L_L6 L_L8 -0.170530841491
Kn_K17 L_L7 L_L8 0.0481537397671
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_21 1 2 3 4 REF
C_C1 1 REF 0.195934432578pf
C_C2 1 2 46.117647799135pf
C_C3 1 4 0.5604465932526pf
C_C4 2 REF 0.851949941993pf
C_C5 2 3 0.2182029549548pf
C_C6 3 REF 0.6535695485376pf
C_C7 4 REF 0.6496178420456pf
R_R1 1 2 -403.7451568012
L_L1 1 5 0.7439742165084nh
R_RL1 5 2 -0.241686760401
L_L2 1 6 89.00159216593nh
R_RL2 6 3 -0.324352381781
L_L3 1 7 88.038794344429nh
R_RL3 7 4 -0.319984210365
L_L4 2 8 90.227149032393nh
R_RL4 8 3 -1.027815699689
L_L5 2 9 89.270965819725nh
R_RL5 9 4 -1.019771288828
L_L6 3 10 1.2953888004486nh
R_RL6 10 4 1.6392217731e-5
Kn_K1 L_L1 L_L2 -0.029591229223
Kn_K2 L_L1 L_L3 -0.030161251311
Kn_K3 L_L1 L_L4 -0.120194690566
Kn_K4 L_L1 L_L5 -0.121242506225
Kn_K5 L_L2 L_L3 0.9926977683755
Kn_K6 L_L2 L_L4 0.9958723064661
Kn_K7 L_L2 L_L5 0.9885244455481
Kn_K8 L_L2 L_L6 -0.105155229999
Kn_K9 L_L3 L_L4 0.9886715984909
Kn_K10 L_L3 L_L5 0.9958281445645
Kn_K11 L_L3 L_L6 0.0155719628006
Kn_K12 L_L4 L_L5 0.9927973597839
Kn_K13 L_L4 L_L6 -0.104132707329
Kn_K14 L_L5 L_L6 0.0157716749024
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_22 1 2 3 4 REF
C_C1 1 REF 0.3832544015142pf
C_C2 1 2 21.355689283559pf
C_C3 1 3 0.0362589257158pf
C_C4 1 4 0.286142806321pf
C_C5 2 REF 0.6810045754381pf
C_C6 2 3 0.127711180299pf
C_C7 3 REF 0.6535792961914pf
C_C8 4 REF 0.6468841301161pf
L_L1 1 5 1.0462782227623nh
R_RL1 5 2 -7.179829845e-3
L_L2 3 6 1.2955100686753nh
R_RL2 6 4 1.1309403419e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_23 1 2 3 4 REF
C_C1 1 REF 0.4574292623653pf
C_C2 1 2 12.183714748219pf
C_C3 1 3 0.0751854205053pf
C_C4 1 4 0.1836259904955pf
C_C5 2 REF 0.6244708033545pf
C_C6 2 3 0.0919677335809pf
C_C7 3 REF 0.6527900432155pf
C_C8 4 REF 0.6450345885367pf
L_L1 1 5 1.4819998199189nh
R_RL1 5 2 -0.025781391006
L_L2 3 6 1.2933316530725nh
R_RL2 6 4 -1.965088933e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_24 1 2 3 4 REF
C_C1 1 REF 0.4921369850619pf
C_C2 1 2 8.3495091593685pf
C_C3 1 3 0.0976766244108pf
C_C4 1 4 0.1392956656878pf
C_C5 2 REF 0.6060219786312pf
C_C6 2 3 0.0739549876812pf
C_C7 2 4 0.0433452779651pf
C_C8 3 REF 0.6510745957856pf
C_C9 4 REF 0.6426146468688pf
L_L1 1 5 1.7928833699277nh
R_RL1 5 2 -7.964359998e-3
L_L2 3 6 1.2906548455339nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_25 1 2 3 4 REF
C_C1 1 REF 0.5121505454982pf
C_C2 1 2 6.9395680120581pf
C_C3 1 3 0.1167037176054pf
C_C4 1 4 0.1176423380549pf
C_C5 2 REF 0.6080432034097pf
C_C6 2 3 0.0604215934473pf
C_C7 2 4 0.0707612246792pf
C_C8 3 REF 0.6489797217534pf
C_C9 4 REF 0.6400030999709pf
L_L1 1 5 1.9104261657567nh
R_RL1 5 2 -6.870768362e-4
L_L2 3 6 1.2872993411985nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_26 1 2 3 4 REF
C_C1 1 REF 0.5205210843316pf
C_C2 1 2 6.8231640241631pf
C_C3 1 3 0.1304524788983pf
C_C4 1 4 0.1097649221079pf
C_C5 2 REF 0.6174449501081pf
C_C6 2 3 0.0509905741652pf
C_C7 2 4 0.0832235428502pf
C_C8 3 REF 0.6473276617154pf
C_C9 4 REF 0.6379722325067pf
L_L1 1 5 1.9017407729231nh
R_RL1 5 2 5.1546073783e-5
L_L2 3 6 1.2858617156143nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param19_26

